US08624034B2
Step B) 2-[3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1,3-thiazole
The title compound (1.33 g) was prepared as a crude brown solid from 2-(3-iodophenoxy)-1,3-thiazole (500 mg, 1.65 mmol) using a procedure analogous to that described for 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-tetrazole, Example 1, Step A. MS (LCMS) m/z 304.0 (M+1).

reactant | 2-(3-iodophenoxy)-1,3-thiazole | 1.65 mmol, 500 mg | IC=1C=C(OC=2SC=CN2)C=CC1 | C9H6INOS
reactant | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-tetrazole | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1N=CN=N1)C | C13H17BN4O2
product | 2-[3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1,3-thiazole | 1.33 g | CC1(OB(OC1(C)C)C=1C=C(OC=2SC=CN2)C=CC1)C | C15H18BNO3S
